US07504411B2
To a suspension of (S)-2-(4-((S)-3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl) piperazine tetrahydrochloride (98 mg, 0.22 mmol) in tetrahydrofuran (5 mL) was added triethylamine (0.20 mL, 1.40 mmol) and 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one (44 mg, 0.20 mmol) at room temperature. After stirring for 24 h, the reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane and sodium bicarbonate aqueous solution, and the solution was passed through CHEM ELUT CE1010 (manufactured by VARIAN). The filtrate was concentrated, and the resulting crystals were washed in a mixture of diisopropyl ether and ethanol to afford (S)-2-(3-(4-(3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl)piperazin-1-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one (80 mg, 82%) as a pale yellow solid.

reactant | (S)-2-(4-((S)-3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl) piperazine tetrahydrochloride | 0.22 mmol, 98 mg | Cl.Cl.Cl.Cl.N1(CCCC1)[C@@H]1CN(CC1)C1=CC=C(C=C1)[C@@H]1NCCNC1
reactant | triethylamine | 1.40 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one | 0.20 mmol, 44 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-2-(3-(4-(3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl)piperazin-1-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one | 80 mg, 82% | N1(CCCC1)C1CN(CC1)C1=CC=C(C=C1)[C@H]1CN(CCN1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C28H35N7O
